US06509335B1
In this situation the aldehyde, such as 3-bromobenzaldehyde as a representative example, is reacted with malononitrile in the presence of catalytic piperidine in a solvent such as dioxane to afford the 2-[(3-bromophenyl)methylene]malononitrile. Epoxide formation proceeds readily with commercial bleach at a pH of 5 to 6. Treatment with hydrobromic acid in methanol then affords the required methyl 2-bromo-2-(3-bromophenyl)acetate. Similarly prepared was methyl 2-bromo-2-(3-cyanophenyl)acetate

reactant | 3-bromobenzaldehyde | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | malononitrile | C(CC#N)#N | C3H2N2
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-[(3-bromophenyl)methylene]malononitrile | BrC=1C=C(C=CC1)C=C(C#N)C#N | C10H5BrN2
